US05030746
PROCEDURE 3- PREPARATION OF HC≡CCMe2NHSiMe3
In a 5000 ml flask were combined 250 g of commercial HC≡CCMe2NH2, 581.8 g of triethylamine, and 1637.5 g of tetrahydrofuran solvent. The flask and contents were cooled at 17° and addition of 625.5 g of trimethylchlorosilane begun with rapid stirring under nitrogen. The addition was completed in 90 min, followed by stirring for 85 min. Analysis by gas chromatography (GC) showed a small amount of HC≡CCMe2NH2, which was converted to product by an additional 53.4 g of trimethylchlorosilane. Reaction mixture was pressure-filtered and the solids triturated with fresh tetrahydrofuran and refiltered. The organic solutions were combined and distilled, providing the desired product, HC≡CCMe2NHSiMe3, as a liquid boiling at 135° at atmospheric pressure. Its structure was confirmed by NMR analysis.

reactant | HC≡CCMe2NH2 | 250 g | C#CC(C)(C)N | C5H9N
reactant | triethylamine | 581.8 g | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 625.5 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | trimethylchlorosilane | 53.4 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 1637.5 g | O1CCCC1 | C4H8O
product | HC≡CCMe2NHSiMe3 | C#CC(C)(C)N[Si](C)(C)C | C8H17NSi
